US05847146
0.75 g (0.0049 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) is added to a solution of 0.5 g (0.0019 mol) of 3-formylamino-2-pyridinesulfonamide and 0.68 g (0.0025 mol) of N-(4,6-dimethoxypyrimidin-2-yl)phenylcarbamate in 40 ml of acetonitrile. The solution is stirred for 16 hours at room temperature, 20 ml of water are subsequently added, and the pH is brought to 4 using 2-normal hydrochloric acid. The mixture is extracted with dichloromethane, the organic phase is dried over MgSO4, and n-heptane is added. Filtration gives 0.64 g (89% of theory) of N-[(4,6-dimethoxy-pyrimidin-2-yl)-amino-carbonyl]-3-formylamino-2-pyridinesulfonamide of melting point 172° C. (decomp.).

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.0049 mol, 0.75 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-formylamino-2-pyridinesulfonamide | 0.0019 mol, 0.5 g | C(=O)NC=1C(=NC=CC1)S(=O)(=O)N | C6H7N3O3S
reactant | N-(4,6-dimethoxypyrimidin-2-yl)phenylcarbamate | 0.0025 mol, 0.68 g | COC1=NC(=NC(=C1)OC)N(C([O-])=O)C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | N-[(4,6-dimethoxy-pyrimidin-2-yl)-amino-carbonyl]-3-formylamino-2-pyridinesulfonamide | 0.64 g, 89% | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=NC=CC=C1NC=O | C13H14N6O6S
